US07915300B2
To a stirred mixture of thiocarbonyldiimidazole (44.9 mmol) in THF (40 mL) at room temperature was added portionwise 2 M Dimethylamine in THF (44 mmol) and a temperature increase was observed. 40 min after final addition the reaction mixture was heated to 55° C. for 1 h, then allowed to reach room temperature again. The reaction was then concentrated in vacuo and the residue purified by flash chromatography (silica gel, Petroleum ether-EtOAc) to give the intermediate imidazole-1-carbothioic acid dimethylamide. This material was treated with freshly prepared sat. ammonia in methanol (40 ml) for 60 h, then concentrated in vacuo and the precipitated residue was suspended in diethyl ether and collected by filtration. The precipitate was washed with diethyl ether and air-dried to give a slight yellow solid (1.71 g, 16.4 mmol) which was used in the subsequent step. 4-(2-bromoacetyl)benzoic acid (1.23 mmol) and 1-piperidinethiocarboxamide (1.23 mmol) were mixed in THF (10 mL), then refluxed for 3 h. The reaction mixture was then allowed to reach room temperature and the obtained precipitate was collected by filtration and washed with 3 portions of diethyl ether. The crude product was crystallized from hot 1:1 EtOH-EtOAc to give a first harvest of colorless needles (0.1 g, 0.40 mmol). 1H NMR (DMSO-d6, 400 MHz) δ 7.94 (4H, m), 7.37 (1H, s), 3.11 (6H, m).

reactant | thiocarbonyldiimidazole | 44.9 mmol | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | Dimethylamine | 2 M | CNC | C2H7N
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 44 mmol | C1CCOC1 | C4H8O
product | imidazole-1-carbothioic acid dimethylamide | CN(C(=S)N1C=NC=C1)C | C6H9N3S
